US04171361
The resulting product, N-[2-methylthio-4,5-dimethoxyphenyl]-N',N'-diethylurea was oxidized with hydrogen peroxide to yield N-[2-methylsulfinyl-4,5-dimethoxyphenyl]-N',N'-diethylurea. Reaction of this compound with O-mesitylenesulfonylhydroxylamine yielded S-methyl-S-[2-diethylaminocarbonylamino-4,5-dimethoxyphenyl]sulfoximine. Heating the sulfoximine yielded 6,7-dimethoxy-1-methyl-1H-1,2,4-benzothiadiazine-3(4H)-one-1-oxide melting at 333°-335° C. Total yield was 59 percent based on 2-methylthiol-4,5-dimethoxyaniline.

reactant | N-[2-methylthio-4,5-dimethoxyphenyl]-N',N'-diethylurea | CSC1=C(C=C(C(=C1)OC)OC)NC(=O)N(CC)CC | C14H22N2O3S
reactant | hydrogen peroxide | OO | H2O2
product | N-[2-methylsulfinyl-4,5-dimethoxyphenyl]-N',N'-diethylurea | CS(=O)C1=C(C=C(C(=C1)OC)OC)NC(=O)N(CC)CC | C14H22N2O4S
